US07576091B2
2-Bromo-cyclohexane-1,3-dione
A solution of 1,3-cyclohexanedione (50 g, 0.45 mol) in CH2Cl2 (111 mL) was stirred at 5° C. Bromine (18 mL, 56.3 g, 0.35 mol) in CH2Cl2 (17 mL) was added dropwise over a period of 5-10 min. The reaction mixture was stirred at room temperature for 1 h. The brown precipitate that formed was collected by filtration, washed with CH2Cl2/toluene (100 mL), and air dried, before being crystallized from H2O to afford the title compound as pale yellow crystals (42.6 g, 50%): mp 167-168° C. Anal. RP-HPLC: tR 7.9 min (0-60% MeCN, purity 100%). 1H-NMR (DMSO-d6): δ 2.49 (t, 4H, J 6.1, 2×CH2), 1.85 (qu, 2H, J 6.1, CH2). MS (ESI−): m/z 190.90/188.90 (M-H)+.

reactant | 1,3-cyclohexanedione | 0.45 mol, 50 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | Bromine | 0.35 mol, 18 mL, 56.3 g | BrBr | Br2
solvent | CH2Cl2 | 111 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 17 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-cyclohexane-1,3-dione | 42.6 g, 50% | BrC1C(CCCC1=O)=O | C6H7BrO2
